US07645789B2
1,1-Dimethyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-7-amine (40.0 mg, 0.200 mmol) and 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (41.2 mg, 0.200 mmol) were dissolved in N,N-dimethylformamide (1 mL) containing triethylamine (84.2 μL, 0.600 mmol) and a magnetic stir bar. O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (84 mg, 0.22 mmol) was added to the mixture and the resulting solution was allowed to stir for 5 minutes at room temperature. The crude product was then purified by preparative HPLC utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(1,1-dimethyl-2,3-dihydro-1H-pyrrolo[1,2-a]-indol-7-yl)cyclopropanecarboxamide. ESI-MS nm/z calc. 388.2, found 389.2 (M+1)+. Retention time of 2.02 minutes. 1H NMR (400 MHz, DMSO-d6) δ 8.41 (s, 1H), 7.59 (d, J=1.8 Hz, 1H), 7.15 (d, J=8.6 Hz, 1H), 7.06-7.02 (m, 2H), 6.96-6.90 (m, 2H), 6.03 (s, 2H), 5.98 (d, J=0.7 Hz, 1H), 4.06 (t, J=6.8 Hz, 2H), 2.35 (t, J=6.8 Hz, 2H), 1.42-1.38 (m, 2H), 1.34 (s, 6H), 1.05-1.01 (m, 2H).

reactant | 1,1-Dimethyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-7-amine | 0.200 mmol, 40.0 mg | CC1(CCN2C1=CC=1C=C(C=CC21)N)C | C13H16N2
reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 0.200 mmol, 41.2 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | triethylamine | 0.600 mmol, 84.2 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.22 mmol, 84 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(1,1-dimethyl-2,3-dihydro-1H-pyrrolo[1,2-a]-indol-7-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC=1C=C3N(C1C=C2)CCC3(C)C | C24H24N2O3
